US06166006
Under argon atmosphere, a solution of ethyl 7-bromo-2,3-dihydro-1-benzoxepine-4-carboxylate (500 mg), 4-chloro-phenyl borate (289 mg) and potassium carbonate (464 mg) in toluene-ethanol-water (20-2-2 ml) was stirred at room temperature for 1 hour. To the reaction mixture was added tetrakistriphenyl-phosphinepalladium (0.06 g), and the mixture was refluxed for 24 hours and cooled to room temperature. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/hexane=1:19) to give ethyl 7-(4-chlorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (459 mg) as colorless crystals.

reactant | ethyl 7-bromo-2,3-dihydro-1-benzoxepine-4-carboxylate | 500 mg | BrC=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C13H13BrO3
reactant | 4-chloro-phenyl borate | 289 mg | B(OC1=CC=C(C=C1)Cl)([O-])[O-]
reactant | potassium carbonate | 464 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene-ethanol water | C=1(C(=CC=CC1)CCO)C.O
catalyst | tetrakistriphenyl-phosphinepalladium | 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 7-(4-chlorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 459 mg | ClC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C19H17ClO3
